US09290451B2
e) 6-(3-Chloro-phenyl)-5-cyclopropyl-pyridine-2-carboxylic acid
6-(3-Chloro-phenyl)-5-cyclopropyl-pyridine-2-carboxylic acid methyl ester (80 mg, 0.28 mmol) and sodium hydroxide (CAN 1310-73-2, 30 mg,) was added into water (10 mL). The mixture was stirred for 2 h at ambient temperature. Subsequently the pH was adjusted to 3 with 1M hydrochloric acid, the mixture extracted with ethyl acetate (3×10 mL), the organic phases were combined, dried over anhydrous sodium sulfate and concentrated to give product (60 mg, 78%); MS (EI): m/e 274.1 [M+H]+.

reactant | 6-(3-Chloro-phenyl)-5-cyclopropyl-pyridine-2-carboxylic acid methyl ester | 0.28 mmol, 80 mg | COC(=O)C1=NC(=C(C=C1)C1CC1)C1=CC(=CC=C1)Cl | C16H14ClNO2
reactant | sodium hydroxide | 30 mg | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 6-(3-Chloro-phenyl)-5-cyclopropyl-pyridine-2-carboxylic acid | 60 mg, 78% | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)C1CC1 | C15H12ClNO2
